US06777418B2
To a solution of 10 g (46.2 mmol) of 1,1,4,4,7-pentamenthyl-2-tetralone in 100 mL of ethyl alcohol was added 7 g (185 mmol) of sodium borohydride portionwise over 15 minutes. After the addition was complete the reaction was stirred at room temperature. After 16 hours the reaction mixture was concentrated under reduced pressure and the residue was partitioned between water and ethyl acetate. The organic extracts were washed with brine, dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography (gradient elution with 5-10% ethyl acetate/hexane), followed by crystallization from hexane to afford 4 g (40%) of 3-methyl-6-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene.(M+=218).

reactant | 1,1,4,4,7-pentamenthyl-2-tetralone | 46.2 mmol, 10 g | C1(CC(C(CC1)C(C)C)C1(C(CC(C2=CC=C(C=C12)C1CC(CCC1C(C)C)C)(C1CC(CCC1C(C)C)C)C1CC(CCC1C(C)C)C)=O)C1CC(CCC1C(C)C)C)C | C60H100O
reactant | sodium borohydride | 185 mmol, 7 g | [BH4-].[Na+]
solvent | ethyl alcohol | 100 mL | C(C)O | C2H6O
product | 3-methyl-6-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene | 4 g, 40% | CC=1C=CC=2C(CC(C(C2C1)(C)C)O)(C)C | C15H22O
